US07160911B2
Methyl 2-methyl-6-[(1R,3S)-3-(5-methyl-2-naphthalen-2-yloxazol-4-ylmethoxy)-cyclohexyloxymethyl]benzoate
At room temperature, 50 mg of a 60% strength suspension of sodium hydride are added to a solution of 200 mg of methyl 2-((1R,3S)-3-hydroxycyclohexyloxy-methyl)-6-methylbenzoate in 5 ml of dimethylformamide, and 380 mg of 4-iodo-methyl-5-methyl-2-naphthalen-2-yloxazole are then added. After one hour, methyl tert-butyl ether is added and the mixture is extracted with water. The organic phase is dried over magnesium sulfate, the solvents are removed under reduced pressure and the residue is purified by RP-HPLC. This gives 94 mg of methyl 2-methyl-6-[(1R,3S)3-(5-methyl-2-naphthalen-2-yloxazol-4-ylmethoxy)cyclohexyl-oxymethyl]benzoate as a light-yellow oil.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 2-((1R,3S)-3-hydroxycyclohexyloxy-methyl)-6-methylbenzoate | 200 mg | O[C@@H]1C[C@@H](CCC1)OCC1=C(C(=O)OC)C(=CC=C1)C | C16H22O4
reactant | 4-iodo-methyl-5-methyl-2-naphthalen-2-yloxazole | 380 mg | IC=1NC(OC1C)(C1=CC2=CC=CC=C2C=C1)C | C15H14INO
reactant | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Methyl 2-methyl-6-[(1R,3S)-3-(5-methyl-2-naphthalen-2-yloxazol-4-ylmethoxy)-cyclohexyloxymethyl]benzoate | CC1=C(C(=O)OC)C(=CC=C1)CO[C@H]1C[C@H](CCC1)OCC=1N=C(OC1C)C1=CC2=CC=CC=C2C=C1 | C31H33NO5
